US08686022B2
1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide dihydrochloride
2.29 g tert-butyl 4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carboxylate are dissolved in 25 ml of a 5 M solution of HCl in isopropanol and stirred for 12 hours at ambient temperature. Then the solvents are eliminated in vacuo and the residue is twice taken up with 20 ml of methanol and this is then eliminated again in vacuo.

reactant | tert-butyl 4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carboxylate | 2.29 g | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)OC(C)(C)C)C)OC)NS(=O)(=O)C | C32H45N5O6S
reactant | methanol | 20 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide dihydrochloride | Cl.Cl.C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCNCC1)C)OC)NS(=O)(=O)C | InChI=1S/C27H37N5O4S.2ClH/c1-27(2,3)20-15-21(25(36-5)22(16-20)30-37(6,34)35)29-26(33)23-14-18-8-7-9-19(24(18)31(23)4)17-32-12-10-28-11-13-32;;/h7-9,14-16,28,30H,10-13,17H2,1-6H3,(H,29,33);2*1H
